US08629271B2
b) 5-Isopropylthiazole-2-carboxylic acid
A solution of ethyl 5-isopropylthiazole-2-carboxylate (example 54, step a) (0.105 g) in methanol (5 mL) was treated with a solution of lithium hydroxide (0.025 g) in water (3 mL) and the resultant mixture was stirred vigorously at 20° C. for 2 hours. The methanol was evaporated off under reduced pressure and the residual aqueous solution was diluted with brine (10 mL). The aqueous layer was washed with ether, then cooled in an ice bath and acidified by dropwise addition of concentrated aqueous hydrochloric acid. The mixture was extracted twice with ethyl acetate. The combined ethyl acetate layers were washed with brine, dried over sodium sulphate, filtered and the solvent evaporated under reduced pressure to afford the subtitled compound. Yield 0.048 g.

reactant | ethyl 5-isopropylthiazole-2-carboxylate | C(C)(C)C1=CN=C(S1)C(=O)OCC | C9H13NO2S
reactant | lithium hydroxide | 0.025 g | [OH-].[Li+]
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
product | 5-Isopropylthiazole-2-carboxylic acid | C(C)(C)C1=CN=C(S1)C(=O)O | C7H9NO2S
